US08835626B2
3rd step: methyl 9H-[1,9′]bicarbazolyl-1′-carboxylate
65 g (123 mmol) of methyl 9-benzenesulfonyl-9H-[1,9′]bicarbazolyl-1′-carboxylate and 48 g (856 mmol) of potassium hydroxide in 65 ml of dimethyl sulfoxide and 21 ml of water are heated at 60° C. for 1 h. The mixture is subsequently cooled to room temperature, neutralised using 1 M HCl solution and extracted with dichloromethane. The solvent is evaporated in vacuo, and the residue is purified by chromatography (heptane/ethyl acetate 10:1). Yield: 45 g (116 mmol), 95% of theory.

reactant | methyl 9-benzenesulfonyl-9H-[1,9′]bicarbazolyl-1′-carboxylate | 123 mmol, 65 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC=C(C12)N1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)OC | C32H22N2O4S
reactant | potassium hydroxide | 856 mmol, 48 g | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | dimethyl sulfoxide | 65 ml | CS(=O)C | C2H6OS
solvent | water | 21 ml | O | H2O
product | methyl 9H-[1,9′]bicarbazolyl-1′-carboxylate | C1(=CC=CC=2C3=CC=CC=C3NC12)N1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)OC | C26H18N2O2
